US07320972B2
Dimethyl(3′-{[tert-butyl(dimethyl)silyl]oxy}-4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)phosphonate (0.047 g, 0.058 mmol) was stirred at room temperature in dry methanol (2 mL) under a nitrogen atmosphere. Potassium fluoride (0.02 g, 0.34 mmol) was added and the reaction mixture was stirred for 30 min at room temperature. The solution was poured into ethyl acetate and washed successively with water (2×), and brine. The organic solution was dried over sodium sulfate, filtered and the solvent was removed by rotary evaporation under reduced pressure. Dimethyl(4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}-3′-hydroxybiphenyl-3-yl)phosphonate was obtained as a colorless glass (0.041 g, 100%) was used directly in the next reaction without further purification; MS [M−H]+ 688

reactant | Dimethyl(3′-{[tert-butyl(dimethyl)silyl]oxy}-4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)phosphonate | 0.058 mmol, 0.047 g | COP(OC)(=O)C=1C=C(C=CC1)C1=CC(=C(C=C1)[C@H]1N(C([C@@H]1CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C | C44H59FNO6PSi2
reactant | Potassium fluoride | 0.34 mmol, 0.02 g | [F-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
product | Dimethyl(4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}-3′-hydroxybiphenyl-3-yl)phosphonate | COP(OC)(=O)C=1C=C(C=CC1)C1=CC(=C(C=C1)[C@H]1N(C([C@@H]1CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O)C1=CC=CC=C1)O | C38H45FNO6PSi
